US05994353
A solution of methyl 2-[N-(2-benzyloxy-5-bromobenzyl)-N-ethyl-amino]pyridine-5-carboxylate (10.0 g, 22 mmol) in dichloromethane (950 ml) was treated with boron trichloride dimethyl sulphide complex (40 ml, 2M, 80 mmol). The reaction was stirred at ambient temperature for 48 hours. Saturated aqueous sodium hydrogen carbonate solution was added and the layers were washed with dichloromethane. The organic layers were combined. dried (MgSO4) and evaporated to give an off white solid which was subjected to chromatography (eluant: ethyl acetate/hexane) to give methyl 2-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]pyridine-5-carboxylate (6.02 g, 75%).

reactant | methyl 2-[N-(2-benzyloxy-5-bromobenzyl)-N-ethyl-amino]pyridine-5-carboxylate | 22 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C=C(C=C1)Br | C23H23BrN2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 950 ml | ClCCl | CH2Cl2
product | methyl 2-[N-(5-bromo-2-hydroxybenzyl)-N-ethylamino]pyridine-5-carboxylate | 6.02 g, 75% | BrC=1C=CC(=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C1)O | C16H17BrN2O3
